US03963718
A mixture of 8 parts of α-(2-aminoethyl)benzylalcohol, 6.5 parts of 2-(nitramino)-2-imidazoline and 40 parts of xylene is stirred and refluxed for 3 hours with waterseparator. The reaction mixture is cooled and the separated oily product is dissolved in 4-methyl-2-pentanone. The solvent is evaporated in vacuo, yielding α-{2-[N-(2-imidazolin-2-yl)amino]ethyl} benzylalcohol as a residue.

reactant | α-(2-aminoethyl)benzylalcohol | NCCC(C1=CC=CC=C1)O | C9H13NO
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | α-{2-[N-(2-imidazolin-2-yl)amino]ethyl} benzylalcohol | N1C(=NCC1)NCCC(C1=CC=CC=C1)O | C12H17N3O
